US08053442B2
A solution of [(S)-2-(6-chloro-5-fluoro-1H-indol-3-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester (200 mg, 0.6 mmol) in HCl/MeOH (10 mL) was stirred at room temperature. After TLC indicated the reaction was finished, the mixture was concentrated to remove the solvent. To the residue was added EtOAc (50 mL), and the mixture was neutralized with saturated NaHCO3 to pH 8˜9, and then extracted with EtOAc. The combined organic phases were dried with Na2SO4, filtered, concentrated to give a crude (S)-2-(6-chloro-5-fluoro-1H-indol-3-yl)-1-methyl-ethylamine which was used without further purification.

reactant | [(S)-2-(6-chloro-5-fluoro-1H-indol-3-yl)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 0.6 mmol, 200 mg | C(C)(C)(C)OC(N[C@H](CC1=CNC2=CC(=C(C=C12)F)Cl)C)=O | C16H20ClFN2O2
solvent | HCl MeOH | 10 mL | Cl.CO
product | (S)-2-(6-chloro-5-fluoro-1H-indol-3-yl)-1-methyl-ethylamine | ClC1=C(C=C2C(=CNC2=C1)C[C@H](C)N)F | C11H12ClFN2
